US05550152
Trans-3,4-dihydro-4-hydroxy-3-(phenylmethyl)-7-(2-hydroxyethyl)-2H-benzopyran
To a stirred solution of 3-phenylmethylene-7-methoxycarbonylmethyl-2H-1-benzopyran-4-one (4.2 g, 14.3 mmole) in THF (70 ml) at 0° C. was added lithium aluminum hydride (2.16 g, 57.1 mmole) portionwise over 10 minutes. The mixture was slowly warmed to room temperature then heated at reflux for 5 hours. The mixture was cooled to 0° C. and 200 ml of saturated sodium-potassium tartrate solution was carefully added over 10 minutes. The mixture was stirred at room temperature overnight, the clear organic phase separated and the clear aqueous layer extracted with 2×100 ml of ether. The combined organic layers were washed with water and brine then dried over MgSO4. Filtration followed by evaporation in vacuo and chromatography (silica gel 2:1→1:5 hexane:ether) gave 2.61 of the title compound (64% yield).

reactant | 3-phenylmethylene-7-methoxycarbonylmethyl-2H-1-benzopyran-4-one | 14.3 mmole, 4.2 g | C1(=CC=CC=C1)C=C1COC2=C(C1=O)C=CC(=C2)CC(=O)OC | C19H16O4
reactant | lithium aluminum hydride | 57.1 mmole, 2.16 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium-potassium tartrate | 200 ml | C(=O)([O-])C(O)C(O)C(=O)[O-].[K+].[Na+]
solvent | THF | 70 ml | C1CCOC1 | C4H8O
product | Trans-3,4-dihydro-4-hydroxy-3-(phenylmethyl)-7-(2-hydroxyethyl)-2H-benzopyran | 64% yield | O[C@H]1[C@@H](COC2=C1C=CC(=C2)CCO)CC2=CC=CC=C2 | C18H20O3
